US03944531
thio-o-cresol is reacted with 1-bromo-3,7-dimethyl-octa-2,6-diene to produce 3,7-dimethyl-octa-2,6-dienyl o-tolyl sulphide (boiling point = 125°C/0.08 mmHg);

reactant | thio-o-cresol | C1(=CC=CC=C1S)C | C7H8S
reactant | 1-bromo-3,7-dimethyl-octa-2,6-diene | BrCC=C(CCC=C(C)C)C | C10H17Br
product | 3,7-dimethyl-octa-2,6-dienyl o-tolyl sulphide | C1(=C(C=CC=C1)SCC=C(CCC=C(C)C)C)C | C17H24S
